US04113940
2,2,2-Trichloroethyl 2-methyl-7-(2-formyloxy-2-phenylacetamido)-3-cephem-4-carboxylate (1.58 g), zinc powder (1.5 g) and glacial acetic acid (1.5 ml) were added to anhydrous dimethylformamide (15 ml), and the mixture was stirred for 1 hour under ice-cooling. After the reaction, zinc powder was filtered off, and the filtrate was poured into a mixture of 5% hydrochloric acid (30 ml) and ethyl acetate (30 ml) and then extracted. The aqueous layer was further extracted twice with ethyl acetate (30 ml). The ethyl acetate layer was combined, and the combined solution was washed with 5% hydrochloric acid and water, and then dried over magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was pulverized by adding isopropyl ether, followed by filtration, and dried to give amorphous 2-methyl-7-(2-formyloxy-2-phenylacetamido)-3-cephem-4-carboxylic acid (1.0 g).

reactant | 2,2,2-Trichloroethyl 2-methyl-7-(2-formyloxy-2-phenylacetamido)-3-cephem-4-carboxylate | 1.58 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C2=CC=CC=C2)OC=O)=O)=O | C19H17Cl3N2O6S
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.5 g | [Zn] | Zn
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-methyl-7-(2-formyloxy-2-phenylacetamido)-3-cephem-4-carboxylic acid | 1.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C2=CC=CC=C2)OC=O)=O)=O | C17H16N2O6S
